US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trifluoro-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of example 27.3.1 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trifluoro-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (1 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (0.29 g, 1.2 mmol). Chromatograph on silica gel eluting sequentially with 50% ethyl acetate/hexane and then 6% methanol/dichloromethane to give the title compound:

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trifluoro-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 1 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)F)F)F)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 1.2 mmol, 0.29 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol dichloromethane | CO.ClCCl
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trifluoro-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)F)F)F)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C31H30Cl2F3N3O2
